US08957068B2
Step 2: Preparation of (S)-tert-butyl (1-cyclopropyl-2-hydroxyethyl)carbamate
To a solution of (S)-methyl 2-(tert-butoxycarbonylamino)-2-cyclopropylacetate (5.35 g, 23.33 mmol) in Et2O (100 ml) was added LiBH4 (0.762 g, 35.0 mmol), followed by drop wise addition of methanol (1.420 ml, 35.0 mmol). The reaction was refluxed at 40° C. for one hour. The reaction mixture was then cooled to 0° C., and quenched with HCl (1M) until pH=2 for aqueous layer. The phases were separated and the aqueous layer was extracted with DCM (3×100 mL). The organic was then dried (Na2SO4) and concentrated under reduced pressure to give final crude product (4.16 g). LCMS m/z 224.1 (M+Na)+, Rt 0.62 min.

reactant | (S)-methyl 2-(tert-butoxycarbonylamino)-2-cyclopropylacetate | 23.33 mmol, 5.35 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C1CC1 | C11H19NO4
reactant | LiBH4 | 35.0 mmol, 0.762 g | [Li+].[BH4-]
reactant | methanol | 35.0 mmol, 1.420 ml | CO | CH4O
solvent | Et2O | 100 ml | CCOCC | C4H10O
product | (S)-tert-butyl (1-cyclopropyl-2-hydroxyethyl)carbamate | 4.16 g | C1(CC1)[C@@H](CO)NC(OC(C)(C)C)=O | C10H19NO3
